US07253192B2
C] 2,2-Dimethyl-pent-4-ynoic acid ethyl ester
A solution of 22.0 ml (2.0 M in THF/n-heptane/ethylbenzene, 44 mmol) LDA in 40 ml THF was treated during 10 min at −78° C. with 5.47 ml (40 mmol) ethyl isobutyrate in 4.7 ml THF. After 1 h at this temperature, a solution of 4.90 ml (80% by weight in toluene, 44 mmol) of propargyl bromide in 7.5 ml THF was added dropwise. The solution was naturally warmed to 0° C. and after 2 h treated carefully with aqueous 10% KHSO4 and extracted with ether (three times). The organic phases were washed with aqueous 10% KHSO4 and aqueous 10% NaCl solution. The organic phase was dried (Na2SO4) and evaporated to give 5.70 g of the title compound as volatile orange liquid.

reactant | LDA | 44 mmol, 2.0 M, 22.0 ml | [Li+].CC(C)[N-]C(C)C
reactant | ethyl isobutyrate | 40 mmol, 5.47 ml | C(C(C)C)(=O)OCC | C6H12O2
reactant | propargyl bromide | 44 mmol, 4.90 ml | C(C#C)Br | C3H3Br
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 4.7 ml | C1CCOC1 | C4H8O
solvent | THF | 7.5 ml | C1CCOC1 | C4H8O
product | 2,2-Dimethyl-pent-4-ynoic acid ethyl ester | 5.70 g | C(C)OC(C(CC#C)(C)C)=O | C9H14O2
